US08183280B2
B. (2S)-Piperidine-2-carboxamide hydrochloride
(2S)—N-(tert-Butyloxycarbonyl)piperidine-2-carboxamide (1.7 g, 7.4 mmol) was dissolved in 4M HCl/dioxan (50 ml). After 1 h at room temperature the solvent was evaporated in vacuo to give a white solid identified as the title compound (1.1 g, 6.7 mmol, 89%).

reactant | (2S)—N-(tert-Butyloxycarbonyl)piperidine-2-carboxamide | 7.4 mmol, 1.7 g | C(C)(C)(C)OC(=O)NC(=O)[C@H]1NCCCC1 | C11H20N2O3
reactant | HCl dioxan | 4M, 50 ml | Cl.O1CCOCC1
product | (2S)-Piperidine-2-carboxamide hydrochloride | 6.7 mmol, 1.1 g, 89% | Cl.N1[C@@H](CCCC1)C(=O)N | InChI=1S/C6H12N2O.ClH/c7-6(9)5-3-1-2-4-8-5;/h5,8H,1-4H2,(H2,7,9);1H/t5-;/m0./s1
